US07713994B2
4-Furan-2-yl-3-hydroxy-benzonitrile
3-Hydroxy-4-iodo-benzonitrile (120 mg, 0.49 mmol) and PdCl2(PPh3)2 (35 mg, 0.049 mmol) and 2-furyltributyltin (200 g, 0.56 mmol) in N,N-dimethylformamide (DMF) (5 mL) is degassed and heated at 100° C. for 30 minutes (min). After the mixture cooled to room temperature, an aqueous work up is performed and the product is isolated from chromatography (80 mg, 88%).

reactant | 3-Hydroxy-4-iodo-benzonitrile | 0.49 mmol, 120 mg | OC=1C=C(C#N)C=CC1I | C7H4INO
reactant | 2-furyltributyltin | 0.56 mmol, 200 g | O1C(=CC=C1)[Sn](CCCC)(CCCC)CCCC
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
catalyst | PdCl2(PPh3)2 | 0.049 mmol, 35 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 4-Furan-2-yl-3-hydroxy-benzonitrile | O1C(=CC=C1)C1=C(C=C(C#N)C=C1)O | C11H7NO2
